US09212190B2
Synthesis of 2-[(3R)-12-[[4-methyl-4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide (I-156)
To a 50-mL round-bottom flask containing a solution of tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)-N-methylcarbamate (85 mg, 0.18 mmol, 1.00 equiv) in dichloromethane (5 mL) was added hydrochloric acid (6 M, 0.1 mL) at 0° C. The resulting solution was stirred for 2 h at room temperature and concentrated under vacuum. The crude product (70 mg) was purified by preparative HPLC under the following conditions (Waters): column: XBridge Prep C18 OBD column: 5 um, 19*150 mm; mobile phase: water with 0.05% NH4HCO3 and CH3CN (10% CH3CN up to 30% in 10 min, up to 95% in 2 min, down to 10% in 2 min); flow rate: 20 mL/min; UV detection at 254 & 220 nm. This resulted in 46.9 mg (70%) of 2-[(3R)-12-[[4-methyl-4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide as a white solid. MS: m/z 375 (M+H)+. 1H NMR (300 MHz, CD3OD): δ 8.47 (1H, s), 5.44 (1H, m), 3.84 (1H, m), 3.14 (1H, m), 3.02 (1H, m), 2.79 (1H, m), 2.25-2.35 (5H, m), 2.10 (2H, m), 1.75-1.90 (4H, m), 1.63 (2H, m), 1.19 (3H, s).

reactant | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)-N-methylcarbamate | 0.18 mmol, 85 mg, 1.00 equiv | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)(C)N(C(OC(C)(C)C)=O)C | C24H34N4O4S
reactant | hydrochloric acid | 6 M, 0.1 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[(3R)-12-[[4-methyl-4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide | CC1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)N)NC | C19H26N4O2S
